US07576104B2
[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-carbamic acid tert-butyl ester I-1
Diisopropylethylamine (3.20 g, 25 mmol) was added to a stirred suspension of methyl-3-[(t-butoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate (8.00 g, 25 mmol) and aminoglutarimide hydrochloride (4.07 g, 25 mmol) in DMF (60 ml). The mixture was heated to 120° C. for 24 hours and then cooled to room temperature. The mixture was poured into cold water (300 ml) and extracted with ethyl acetate (4×100 ml each). The combined ethyl acetate extracts were washed with water (2×50 ml), brine (50 ml) and dried. Solvent was removed in vacuo and the product purified by flash chromatography (dichloromethane/ethyl acetate 8 to 2) to yield 4.66 g of recovered starting material and 3.31 g (82%) of the product as a white solid: mp 180-182° C.; 1H NMR (CDCl3) δ 8.51 (s, 1H), 7.81-7.67 (m, 3H), 5.54 (b, 1H), 5.03-4.96 (dd, J=5.2 and 11.2 Hz, 1H), 4.66 (d, J=6.3 Hz, 2H), 2.95-2.74 (m, 3H), 2.18-2.14 (m, 1H), 1.43 (s, 9H); 13C NMR (CDCl3) δ 170.99, 168.08, 167.95, 167.07, 155.86, 139.17, 135.00, 134.61, 132.15, 128.22, 122.82, 79.81, 49.21, 40.53, 31.33, 28.32, 22.58; Anal. Calcd for C19H21N3O6: C, 58.91; H, 5.46; N, 10.85. Found: C, 59.08; H, 5.51; N, 10.69.

reactant | Diisopropylethylamine | 25 mmol, 3.20 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl-3-[(t-butoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 25 mmol, 8.00 g | COC(C1=C(C(=CC=C1)CNC(=O)OC(C)(C)C)C(=O)OC)=O | C16H21NO6
reactant | aminoglutarimide hydrochloride | 25 mmol, 4.07 g | Cl.NC1C(=O)NC(CC1)=O
reactant | water | 300 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | [2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C19H21N3O6
